* C:\users\lyam\Documents\University\S4\APP4\GitHub\s4-app4\spice\add1b_test.asc
V1 vdd 0 1.8
Vsel sel 0 1.8
XX1 0 a b o1 cout vdd 0 add1b params: wn={nnw} wp={nnw*mp} ll={ll}
V2 a 0 {vv}
V3 b 0 PULSE(0 {vv} 10p 1p 1p 2n 4n 3)

* block symbol definitions
.subckt add1b cin a b s cout vss vdd
XX1 a N001 vdd vss b nand params: NAND wn={nnw} wp={nnw*mp} ll={ll}
XX2 N003 N002 vdd vss cin nand params: NAND wn={nnw} wp={nnw*mp} ll={ll}
XX3 a N003 vdd vss b xor params: XOR wn={nnw*2} wp={nnw*mp} ll={ll}
XX4 N001 cout vdd vss N002 nand params: NAND wn={nnw} wp={nnw*mp} ll={ll}
XX5 N003 s vdd vss cin xor params: XOR wn={nnw*2} wp={nnw*mp} ll={ll}
.ends add1b

.subckt nand in1 Q vdd vss in2
R2 vdd N002 1
M1 vdd in1 Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M2 Q in1 N005 vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M3 vdd in2 Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M4 N005 in2 vss vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.lib BU_180nm.lib
.ends nand

.subckt xor in1 Q vdd vss in2
R3 Q N010 1
R4 N010 N009 1
R5 N010 N011 1
M9 Q in1 N006 vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M10 vdd N001 N003 vdd PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M5 vdd N002 N004 vdd PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M6 N003 in2 Q vdd PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M7 N004 in1 Q vdd PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M1 Q N005 N007 vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 N006 in2 vss vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M3 N007 N008 vss vss NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M4 vdd in1 N001 vdd PMOS l={ll} w={wp*1} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M8 N001 in1 vss vss NMOS l={ll} w={wn*1} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M11 vdd in2 N002 vdd PMOS l={ll} w={wp*1} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M12 N002 in2 vss vss NMOS l={ll} w={wn*1} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M13 vdd in2 N005 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M14 N005 in2 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M15 vdd in1 N008 vdd PMOS l={ll} w={wp*1} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M16 N008 in1 vss vss NMOS l={ll} w={wn*1} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.lib BU_180nm.lib
.param wp1={wp*3}
.param wn1={wn*3}
.param wp2={wp*3}
.ends xor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\lyam\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=2.5 ll=180n
.lib BU_180nm.lib
.op
.tran 4200p
.param voh=vv*0.9 vol=vv*0.1
.meas tran t1 find time when v(out)={vol} rise 1
.meas tran t2 find time when v(out)={voh} rise 1
.meas tran t3 find time when v(out)={vol} fall 1
.meas tran t4 find time when v(out)={voh} fall 1
.meas tran uptime param abs(t2-t1)
.meas tran downtime param abs(t4-t3)
.meas tran upslope param abs({voh}-{vol})/abs(t2-t1)
.meas tran downslope param abs({voh}-{vol})/abs(t4-t3)
.meas tran ratio param upslope/downslope
.backanno
.end
